### PR TITLE
feat (Topology/UniformSpace/Cauchy): Add basic results about Cauchy filters in discrete uniform spaces

### PR DESCRIPTION
**Pull request by faenuccio**
Add some basic lemmas stating that a Cauchy filter in a discrete uniform space is principal.

Co-authored-by: María Inés de Frutos Fernández @mariainesdff 

---

### CODE REVIEW

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 1]
```diff
@@ -141,6 +141,32 @@ theorem idRel_subset {s : Set (α × α)} : idRel ⊆ s ↔ ∀ a, (a, a) ∈ s
   simp [subset_def]
 #align id_rel_subset idRel_subset
 
+theorem prod_subset_idRel_Eq_singleton_left {X : Type _} {S T : Set X} (hS : S.Nonempty)
```
Comment (PatrickMassot) [inline Mathlib/Topology/UniformSpace/Basic.lean:144]: Do you really need the left and right versions after proving the stronger version?

File: Mathlib/Topology/UniformSpace/Cauchy.lean [hunk 2]
```diff
@@ -829,4 +829,42 @@ theorem secondCountable_of_separable [SeparableSpace α] : SecondCountableTopolo
     exact hUV (ball_subset_of_comp_subset (hk hxy) hUU' (hk hz))
 #align uniform_space.second_countable_of_separable UniformSpace.secondCountable_of_separable
 
+section DiscreteUniformity
+
+/-- A Cauchy filter in a discrete uniform space is contained in a principal filter-/
+theorem Cauchy_Discrete_le_principal {X : Type _} {uX : UniformSpace X}
+    (hX : uniformity X = 𝓟 idRel) {α : Filter X} (hα : Cauchy α) : ∃ x : X, α ≤ 𝓟 {x} := by
```
Comment (PatrickMassot) [inline Mathlib/Topology/UniformSpace/Cauchy.lean:836]: All those `𝓟 idRel` should be spelled bot. And the conclusion should be an equality. Is there any reason why you don’t make `uX` an instance parameter?

File: Mathlib/Topology/UniformSpace/Cauchy.lean [hunk 3]
```diff
@@ -829,4 +829,42 @@ theorem secondCountable_of_separable [SeparableSpace α] : SecondCountableTopolo
...
+  rcases hα with ⟨α_ne_bot, α_le⟩
+  rw [Filter.le_def] at α_le
+  specialize α_le idRel
+  simp only [le_def, hX, mem_principal, idRel_subset, mem_idRel, eq_self_iff_true, imp_true_iff,
+    forall_true_left, mem_prod_iff] at α_le
+  obtain ⟨_, ⟨hS, ⟨_, ⟨hT, H⟩⟩⟩⟩ := α_le
+  obtain ⟨x, hx⟩ :=
+    prod_subset_idRel_Eq_singleton_left (Filter.nonempty_of_mem hS) (Filter.nonempty_of_mem hT) H
+  use x
+  rwa [Filter.le_principal_iff, ← hx]
```
Comment (PatrickMassot) [inline Mathlib/Topology/UniformSpace/Cauchy.lean:846]: I see many `Filter.` in this proof. Isn’t the namespace opened here?

File: Mathlib/Topology/UniformSpace/Cauchy.lean [hunk 4]
```diff
@@ -829,4 +829,42 @@ theorem secondCountable_of_separable [SeparableSpace α] : SecondCountableTopolo
...
+/-- The constant to which a non-empty Cauchy filter in a discrete uniform space converges is
+unique. -/
+theorem neBot_unique_principal {X : Type _} [UniformSpace X] (hX : uniformity X = 𝓟 idRel)
+    {α : Filter X} (hα : α.NeBot) {x y : X} (hx : α ≤ 𝓟 {x}) (hy : α ≤ 𝓟 {y}) : x = y := by
+  have h_disc : DiscreteTopology X := discreteTopology_of_discrete_uniformity hX
+  have t2X := @DiscreteTopology.toT2Space X _ h_disc
+  apply @eq_of_nhds_neBot X _ t2X x y
+  apply @neBot_of_le _ _ _ hα
+  simp only [discreteTopology_iff_nhds.mp h_disc, le_inf_iff, le_pure_iff]
+  exact ⟨le_principal_iff.mp hx, le_principal_iff.mp hy⟩
```
Comment (PatrickMassot) [inline Mathlib/Topology/UniformSpace/Cauchy.lean:866]: This proof is way too complicated. `𝓟 {x}` is an ultrafilter so `hα` and `hx` imply `𝓟 {x} = α`.

File: Mathlib/Topology/UniformSpace/Basic.lean (hunk 1 above)
Comment (faenuccio) [reply Mathlib/Topology/UniformSpace/Basic.lean:144]: Well, I use the left to prove the right and both to prove the full one. For my application I only need the left (for example) but I find it more complete to have the three.

File: Mathlib/Topology/UniformSpace/Cauchy.lean (hunk 3 above)
Comment (faenuccio) [reply Mathlib/Topology/UniformSpace/Cauchy.lean:846]: The two `Filter.nonempty_of_mem` on line 846 are needed because of some ambiguity, so I ended up not opening the namespace. Not it is opened and two `Flter.` are removed, I do not know if it is much better but am happy to keep it this way.

File: Mathlib/Topology/UniformSpace/Cauchy.lean (hunk 2 above)
Comment (faenuccio) [reply Mathlib/Topology/UniformSpace/Cauchy.lean:836]: I have changed the 𝓟 idRel to ⊥ and the ≤ to equality. The reason why I do not want uX to be an instance parameter is that one might want to apply the lemma in the setting where a type has no uniformity at all, and then along the proof put on it the discrete one. If you want I can create two lemmas, one with an instance parameter and the other one like this, with a usual assumption.

File: Mathlib/Topology/UniformSpace/Cauchy.lean (hunk 4 above)
Comment (faenuccio) [reply Mathlib/Topology/UniformSpace/Cauchy.lean:866]: Indeed, thanks.

**Comment by faenuccio** [comment]
@PatrickMassot Did you find the time to have another look at my modifications following your suggestions?

**Comment by PatrickMassot** [comment]
Sorry, I didn’t have time. But I gave my last lecture of the year this morning so I thought I would celebrate my new free time with another round of review. I see you didn’t fully understood my comment about using the ultrafilter API. Also I should have said that using pure instead of principal and singleton would unclutter things.

The whole story can be:
```lean
/-- A Cauchy filter in a discrete uniform space is contained in a principal filter-/
theorem Cauchy_Discrete_le_principal {X : Type _} {uX : UniformSpace X}
    (hX : uX = ⊥) {α : Filter X} (hα : Cauchy α) : ∃ x : X, α = pure x := by
  rcases hα with ⟨α_ne_bot, α_le⟩
  rw [hX, bot_uniformity, le_principal_iff, mem_prod_iff] at α_le
  obtain ⟨S, ⟨hS, ⟨T, ⟨hT, H⟩⟩⟩⟩ := α_le
  obtain ⟨x, rfl⟩ :=
    prod_subset_idRel_Eq_singleton_left (α_ne_bot.nonempty_of_mem hS) (Filter.nonempty_of_mem hT) H
  exact ⟨x, α_ne_bot.le_pure_iff.mp <| le_pure_iff.mpr hS⟩

/-- A constant to which a Cauchy filter in a discrete uniform space converges. -/
noncomputable def Cauchy_Discrete_constant {X : Type _} {uX : UniformSpace X}
    (hX : uX = ⊥) {α : Filter X} (hα : Cauchy α) : X :=
  (Cauchy_Discrete_le_principal hX hα).choose

theorem Cauchy_Discrete_le {X : Type _} {uX : UniformSpace X} (hX : uX = ⊥)
    {α : Filter X} (hα : Cauchy α) : α = pure (Cauchy_Discrete_constant hX hα) :=
  (Cauchy_Discrete_le_principal hX hα).choose_spec

/-- If a filter is not `⊥` and less than two pure filters then the corresponding points are equal.-/
theorem _root_.Filter.NeBot.eq_of_le_pure_le_pure {X : Type _} {α : Filter X} (hα : α.NeBot) {x y : X}
    (hx : α ≤ pure x) (hy : α ≤ pure y) : x = y :=
  pure_injective (hα.le_pure_iff.mp hx ▸ hα.le_pure_iff.mp hy)
```

But the last lemma must move out of this file and go to `Mathlib.Order.Filter.Ultrafilter`. I am also not super happy with the names in the main part. I don’t think this is really following the naming convention.

**Review by faenuccio — COMMENTED** [review]
Thanks! I have incorporated your changes, changed the names and moved the last one to the relevant file.

One thing that I find a bit unsatisfactory is the doc about principal and pure filters, though. As a matter of fact, since pure filters do not exist in the litterature (only principal ones), one is tempted to use `principal` more than `pure`. The doc saying `s ∈ pure a` is defeq `a ∈ s` (showing that this definition is somewhat better, as exemplified by your review, is not in the doc for principal ones but for pure: even worse, at the beginning of the basic file on filters only `principal` is mentioned, nothing appears about `pure`. I would argue that some more doc instructing to use `pure` instead of `principal` could be added, and actually ask if principal filters are needed altogether (or if the definition can be refactored to only have the definition as in `pure`, perhaps renamed `principal`). What's your opinion about all this?
